US06844362B2
5-[(2R)-2-({(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)propyl]-N-[4-(trifluoro methyl)benzyl]-1H-indole-2-carboxamide
Prepared analogously to 5-[(2R)-2-({(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)propyl]-N-(2-methoxybenzyl)-1H-indole-2-carboxamide using 4-trifluoromethylbenzylamine to give the title compound as a pale brown foam.

reactant | 5-[(2R)-2-({(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)propyl]-N-(2-methoxybenzyl)-1H-indole-2-carboxamide | [Si](C)(C)(C(C)(C)C)O[C@@H](CN[C@@H](CC=1C=C2C=C(NC2=CC1)C(=O)NCC1=C(C=CC=C1)OC)C)C1=CC(=C(C=C1)O)CO | C35H47N3O5Si
reactant | 4-trifluoromethylbenzylamine | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
product | 5-[(2R)-2-({(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)propyl]-N-[4-(trifluoro methyl)benzyl]-1H-indole-2-carboxamide | [Si](C)(C)(C(C)(C)C)O[C@@H](CN[C@@H](CC=1C=C2C=C(NC2=CC1)C(=O)NCC1=CC=C(C=C1)C(F)(F)F)C)C1=CC(=C(C=C1)O)CO | C35H44F3N3O4Si
